US07189750B2
2-(2-Amino-4-methyl-thiazol-5-yl)-ethanol was prepared according to general procedures presented hereinabove, by adding 20 grams (0.263 moles) of thiourea to 200 ml of dry toluene, followed by addition of 47 grams (0.263 moles) of 5-acetoxy-3-chloro-2-pentanone over a time period of 20 minutes. The reaction mixture was heated at 80° C. for 24 hours and thereafter approximately 180 ml of toluene were removed by evaporation. 180 ml of water and 20 ml of HCL solution (32%) were then added and the reaction mixture was refluxed for 1 hour at 90° C. The organic phase was then removed by washing with chloroform, and the aqueous phase was turned basic (pH 8–9) using a 5 N solution of sodium hydroxide. The product was extracted once with 70 ml chloroform and once with 70 ml ethyl acetate. The combined organic extracts were dried over sodium sulfate and the solvents were removed by evaporation to give 30 grams (72% yield) of violet-brown crystals.

reactant | thiourea | 0.263 moles, 20 grams | NC(=S)N | CH4N2S
reactant | 5-acetoxy-3-chloro-2-pentanone | 0.263 moles, 47 grams | C(C)(=O)OCCC(C(C)=O)Cl | C7H11ClO3
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Amino-4-methyl-thiazol-5-yl)-ethanol | NC=1SC(=C(N1)C)CCO | C6H10N2OS
